US07208494B2
a) (4R,9aR)-7-Chloro-4,6-dimethyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester
To a solution of 0.20 g (0.66 mmol) (R)-4,6-dimethyl-3,4-dihydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester in 2 mL tetrahydrofuran was added 92.1 μg (0.69 mmol) N-chlorosuccinimide. The reaction was stirred at 50 deg C. for 18 h, then the solvent was evaporated and the residue was purified by column chromatography on silica gel (0.032–0.063 mm) with ethyl acetate:dichloromethane (1:19) as eluant.

reactant | (R)-4,6-dimethyl-3,4-dihydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | 0.66 mmol, 0.20 g | C(C)(C)(C)OC(=O)N1CC2=CC3=CC=C(N=C3N2[C@@H](C1)C)C | C17H23N3O2
reactant | N-chlorosuccinimide | 0.69 mmol, 92.1 μg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | (4R,9aR)-7-Chloro-4,6-dimethyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC(=C(N=C3N2[C@@H](C1)C)C)Cl | C17H24ClN3O2
